US07855166B2
4-Cyclopropyl-3-ethoxy-N-[(2-iodo-6-methoxyphenyl)sulfonyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazole-1-carboxamide (Example 1.191)
A solution of 250 mg (0.80 mmol) of 2-iodo-6-methoxybenzenesulfonamide in 3 ml of acetonitrile is admixed at room temperature first with 254.08 mg (0.88 mmol) of 4-cyclopropyl-3-ethoxy-5-oxo-1-phenyloxycarbonyl-4,5-dihydro-1H-1,2,4-triazole and then slowly with 0.24 ml (1.60 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene. After 60 min of stirring at room temperature the solution is adjusted slowly to a pH of 1 using 2 N salt solution. The precipitated solid is filtered off with suction, washed with diisopropyl ether and acetonitrile, and dried. This gives 267 mg (62% of theory) of 4-cyclopropyl-3-ethoxy-N-[(2-iodo-6-methoxyphenyl)sulfonyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazole-1-carboxamide.

reactant | 2-iodo-6-methoxybenzenesulfonamide | 0.80 mmol, 250 mg | IC1=C(C(=CC=C1)OC)S(=O)(=O)N | C7H8INO3S
reactant | 4-cyclopropyl-3-ethoxy-5-oxo-1-phenyloxycarbonyl-4,5-dihydro-1H-1,2,4-triazole | 0.88 mmol, 254.08 mg | C1(CC1)N1C(=NN(C1=O)C(=O)OC1=CC=CC=C1)OCC | C14H15N3O4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.60 mmol, 0.24 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 4-Cyclopropyl-3-ethoxy-N-[(2-iodo-6-methoxyphenyl)sulfonyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazole-1-carboxamide | C1(CC1)N1C(=NN(C1=O)C(=O)NS(=O)(=O)C1=C(C=CC=C1OC)I)OCC | C15H17IN4O6S
